US04220647
A mixture of 1(N-benzyloxycarbonyl-m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (0.3 g), conc. hydrochloric acid (3 ml) and acetic acid (3 ml) was refluxed for 1.5 hours in a stream of nitrogen. The reaction mixture was concentrated and the residue was pulverized with ether to give 1-(m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (0.2 g), powder.

reactant | 1(N-benzyloxycarbonyl-m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.3 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC(=CC=C1)F)CC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-(m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.2 g | Cl.FC=1C=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=CC1 | InChI=1S/C16H17FN2O2.ClH/c17-11-2-1-3-12(7-11)19-9-14-13-8-16(21)15(20)6-10(13)4-5-18-14;/h1-3,6-8,14,18-21H,4-5,9H2;1H
